US05153196
The bromohydroxyquinoline (1.97 g, 8.79 mmol) was dissolved in 21 ml of ethylene glycol and hydrazine hydrat (4.2 ml) was added. To this mixture were added 1.3 g (12.2 mmol) of hydrazine dihydrochloride, and the resulting mixture was heated to reflux and stirred under nitrogen. The resulting material was poured onto 300 ml of H2O. The mixture was extracted with CH2Cl2, basified with NaHCO3 and extracted further with CH2Cl2. The combined organic portions were washed with water, dried over Na2SO4, filtered, and concentrated in vacuo to give a brown oil, yielding bromoanilinopyrazole (i.e., 3-(2-amino-5-bromophenyl)pyrazole).

reactant | bromohydroxyquinoline | 8.79 mmol, 1.97 g | BrC=1C(=NC2=CC=CC=C2C1)O | C9H6BrNO
reactant | hydrazine hydrat | 4.2 ml | O.NN
reactant | hydrazine dihydrochloride | 12.2 mmol, 1.3 g | Cl.Cl.NN
reactant | H2O | 300 ml | O | H2O
solvent | ethylene glycol | 21 ml | C(CO)O | C2H6O2
product | bromoanilinopyrazole | BrC=1C(=NNC1)NC1=CC=CC=C1 | C9H8BrN3
